US06310252B1
3-(n-Butoxy)phenol
Prepared according to the method described in Example A above from resorcinol (55 g; 0.5 mol) and n-butylbromide (75.4 g; 0.55 mol) to yield 32.4 g (39%) of the title compound as an oil (92% purity). bp 148° C. (12 mm Hg) MW=166 (GC-MS)

reactant | resorcinol | 0.5 mol, 55 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | n-butylbromide | 0.55 mol, 75.4 g | C(CCC)Br | C4H9Br
product | 3-(n-Butoxy)phenol | 32.4 g | C(CCC)OC=1C=C(C=CC1)O | C10H14O2
